US04156738
To a stirring mixture of 18.7 g (0.2 mole) aminoacetonitrile·HCl in 300 ml. dry tetrahydrofuran under a nitrogen atmosphere, there is added 20.4 g. (0.2 mole) t-butyl isocyanate (97%), followed by 28 ml. (0.2 mole) triethylamine. The resulting mixture is heated at reflux for five hours, cooled and the tetrahydrofuran removed at reduced pressure. The solid is recrystallized from ethyl acetate to give N-cyanomethyl-N'-(1,1-dimethylethyl)urea, m.p. 128°-32° (Anal. Calcd. for C7H13N3O: C: 54.17, H: 8.44, N: 27.07; Found: C: 53.84, H: 8.33, N: 26.86.

reactant | aminoacetonitrile·HCl | 0.2 mole, 18.7 g | NCC#N.Cl
reactant | t-butyl isocyanate | 0.2 mole | C(C)(C)(C)N=C=O | C5H9NO
reactant | triethylamine | 0.2 mole | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | N-cyanomethyl-N'-(1,1-dimethylethyl)urea | C(#N)CNC(=O)NC(C)(C)C | C7H13N3O
